US04598077
Into a solution of 10.0 g of 3-methoxy-4-methylbenzoic acid in 100 ml of dried tetrahydrofuran, while being cooled in ice and stirred under a nitrogen stream, was added dropwise over a period of 15 minutes 80 ml of a 1M solution of borane-tetrahydrofuran complex in tetrahydrofuran. The mixture was then stirred at room temperature for 3 hours. After addition of 10 ml of water, the reaction mixture was stripped of the solvent by distillation. The residue was dissolved in ether, washed with saturated aquecus sodium bicarbonate solution, then with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and stripped of the solvent by distillation to yield 7.6 g of 3-methoxy-4-methylbenzyl alcohol in the form of yellow oil.

reactant | 3-methoxy-4-methylbenzoic acid | 10.0 g | COC=1C=C(C(=O)O)C=CC1C | C9H10O3
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-methoxy-4-methylbenzyl alcohol | 7.6 g | COC=1C=C(CO)C=CC1C | C9H12O2
